US05080884
1-(2-trans-2-Butenylthio)-2-methylpropylamino)-2-(2-mercapto-2-methylpropylamino) benzene was reacted with Tc-99m sodium pertechnetate by the procedure of Example 7 to produce the Tc-99m complex of 1-[2-(trans-2-butenylthio)-2-methylpropylamino]-2-(2-mercapto-2-methylpropylamino) benzene. HPLC (90% ethanol//H2O, 1.5 ml/min, Waters Radial-Pak C-18) Rt 4.06 min, radiochemical purity 100%. TLC (70% hexane/diethyl ether) RF 0.26, radiochemical purity 94%. Electrophoresis (0.05 M NaH2PO4, pH 4.5, 300 volts, 45 min) neutral.

reactant | 2-(2-mercapto-2-methylpropylamino) benzene | SC(CNC1=CC=CC=C1)(C)C | C10H15NS
catalyst | sodium pertechnetate | [Tc](=O)(=O)(=O)[O-].[Na+]
product | 1-[2-(trans-2-butenylthio)-2-methylpropylamino]-2-(2-mercapto-2-methylpropylamino) benzene | C(\C=C\C)SC(CNC1=C(C=CC=C1)NCC(C)(C)S)(C)C | C18H30N2S2
